data/mechanisms/records/IMS8-EQ8.40a.json
{"mechanism_id": "IMS8-EQ8.40a", "species": [{"species_id": "fluoroethane_radical_cation", "mapped_smiles": "[CH3:1][CH:2]([1H:6])[F+:3]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ch3chf_fluoronium_cation", "mapped_smiles": "[CH3:1][CH:2]=[F+:3]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "hydrogen_radical", "mapped_smiles": "[1H:6]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["fluoroethane_radical_cation"]}, {"state_id": "state_products", "species_ids": ["ch3chf_fluoronium_cation", "hydrogen_radical"]}], "steps": [{"step_id": "step_alpha_cleavage_ch", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 6]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 6]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage_ch", "support_type": "textbook_proposed", "locator": {"page": 170, "equation": "8.40", "section": "Electronegative groups"}, "confidence": 0.9, "curator_note": "Concrete: fluoroethane molecular ion CH3-CH2-F(+.) loses H. to give the fluoronium ion CH3-CH=F(+); this is the dominant of the two competing channels (100%, dH = 0.2 eV) and the H. lost comes from the F-bearing carbon (C2), so a C2=F(+) pi bond forms. The book explicitly frames this R(+.)R'Y -> R. + R'Y(+) pathway as the ground state of the products correlating with an EXCITED state of M(+.), and distinguishes it from initial heteroatom (inductive) ionization; charge+radical are localized on F here only to give the alpha-cleavage arrows a real origin (encoding convention B). Book draws 0 electron-pushing arcs: equation 8.40 is printed as a plain net-reaction line 'H(+)CH(CH3)F -> H. + CH3CH=F(+) (100%)'. All three moves <1,2,3> are curator-supplied to balance the alpha C-H homolysis and are NOT drawn on the page: (1) the F(+.) odd electron into the forming C2=F pi bond, (2) one electron of the C2-H sigma bond into that same pi bond, (3) the second C2-H electron onto the departing H.."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "electron_energy_ev": 70.0, "precursor_mz": 48.0364, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_47", "species_id": "ch3chf_fluoronium_cation", "step_id": "step_alpha_cleavage_ch", "observed_mz": 47.0286, "relative_intensity": 1.0, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
